US07691867B2
Diethyl azodicarboxylate (793 mg, 4.56 mmol) was added portionwise at room temperature to a stirred suspension of 4-chloro-7-methoxyquinazolin-6-ol (800 mg, 3.80 mmol), 1-methylpyrrolidin-3-ol (422 mg, 4.18 mmol) and triphenylphosphine (1.3 g, 4.96 mmol) in dichloromethane (16 ml). The reaction mixture was stirred for 1 hour and then a further portion of diethyl azodicarboxylate (360 ul) and triphenylphosphine (0.65 mg) were added. The mixture was stirred for 1 hour and the resulting orange solution was purified directly by silica gel chromatography eluting with a 0-10% mixture of methanol in dichloromethane to 4-chloro-7-methoxy-6-[(1-methylpyrrolidin-3-yl)oxy]quinazoline (330 mg, 28% yield) as a tan coloured solid:

reactant | Diethyl azodicarboxylate | 4.56 mmol, 793 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-chloro-7-methoxyquinazolin-6-ol | 3.80 mmol, 800 mg | ClC1=NC=NC2=CC(=C(C=C12)O)OC | C9H7ClN2O2
reactant | 1-methylpyrrolidin-3-ol | 4.18 mmol, 422 mg | CN1CC(CC1)O | C5H11NO
reactant | triphenylphosphine | 4.96 mmol, 1.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 360 ul | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | dichloromethane | 16 ml | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
catalyst | triphenylphosphine | 0.65 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 4-chloro-7-methoxy-6-[(1-methylpyrrolidin-3-yl)oxy]quinazoline | 330 mg, 28% yield | ClC1=NC=NC2=CC(=C(C=C12)OC1CN(CC1)C)OC | C14H16ClN3O2
